US07635715B2
Step E: Preparation of tert-Butyl N-((5-chloro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate
Ethyl 5-chloro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalene-3-carboxylate (210 mg, 713 μmol, 1.0 eq) and glycine tert-butyl ester hydrochloride (143 mg, 855 μmol, 1.20 eq) were mixed in dioxane (5 mL) in a round bottom flask. DIPEA (186 μL, 1069 μmol, 1.5 eq) was added via syringe, and the reaction was stirred at 75° C. for 4 hours. The reaction mixture was cooled to room temperature and concentrated in vacuo to give a yellow solid. The crude product was purified by silica flash chromatography (0-50% DCM/hexane) to give the desired compound as a white solid (204 mg). MS m/e=380 (M+H)+.

reactant | Ethyl 5-chloro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalene-3-carboxylate | 713 μmol, 210 mg, 1.0 eq | ClC1=C2C(=C(C(C(C2=CC=C1)(C)C)=O)C(=O)OCC)O | C15H15ClO4
reactant | glycine tert-butyl ester hydrochloride | 855 μmol, 143 mg, 1.20 eq | Cl.C(C)(C)(C)OC(CN)=O
reactant | DIPEA | 1069 μmol, 186 μL, 1.5 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | tert-Butyl N-((5-chloro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate | 204 mg | ClC1=C2C(=C(C(C(C2=CC=C1)(C)C)=O)C(=O)NCC(=O)OC(C)(C)C)O | C19H22ClNO5
